US09388177B2
2-(4-fluorophenyl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide
To a stirred solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (200 mg) in DMF (9 mL) and dichloromethane (18 mL) was added sodium bicarbonate (153 mg), (4-fluorophenyl)acetic acid (155 mg) and HATU (521 mg). The mixture was stirred at room temperature for 4 h. Water was added, and the mixture was stirred for 30 minutes. A half-saturated solution of sodium bicarbonate was added and the mixture was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum. Aminophase-silica-gel chromatography gave 120 mg of the title compound.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 200 mg | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium bicarbonate | 153 mg | C([O-])(O)=O.[Na+]
reactant | (4-fluorophenyl)acetic acid | 155 mg | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | HATU | 521 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 2-(4-fluorophenyl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide | 120 mg | FC1=CC=C(C=C1)CC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H23BFNO3
